### PR TITLE
feat(AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms): Normal forms for `P_σ`s

### PR DESCRIPTION
**Pull request by robin-carlier**
We prove that admissible lists indeed provide a normal form for morphisms of satisfying `P_σ`.
To this end, we introduce `standardσ`, a construction that takes a list and turn it into a composition of `σ i`s in `SimplexCategoryGenRel`. We then prove that, thangs to the fifth simplicial identity, composition on the right corresponds to simplicial insertion in the list. This gives existence of a normal form for every morphism satisfying `P_σ`.

For unicity, we introduce an auxiliary function `simplicialEvalσ : (List ℕ) → ℕ → ℕ` and show that for admissible lists, it lifts to `ℕ` the `orderHom` attached to `toSimplexCategory.map standardσ`, and that we can recover elements of the list only by looking at values of this function.

Part of a series of PR formalising that `SimplexCategoryGenRel` is equivalent to `SimplexCategory`.

---

- [x] depends on: #21744 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 1]
```diff
@@ -155,4 +151,287 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+section NormalFormsP_σ
+
+-- Impl note.: The definition is a bit akward with the extra parameter `k`, but this
+-- is necessary in order to avoid some type theory hell when proving that `orderedInsert`
+-- behaves as expected...
+
+/-- Given a sequence `L = [ i 0, ..., i b ]`, `standardσ m L` i is the morphism
+`σ (i b) ≫ … ≫ σ (i 0)`. The construction is provided for any list of natural numbers,
+but it is intended to behave well only when the list is admissible. -/
+def standardσ (m : ℕ) (L : List ℕ) (k : ℕ) (hK : L.length = k): mk (m + k) ⟶ mk m :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:163]:
```suggestion
def standardσ (m : ℕ) (L : List ℕ) (k : ℕ) (hK : L.length = k) : mk (m + k) ⟶ mk m :=
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 2]
```diff
@@ -155,4 +151,287 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
 
 end AdmissibleLists
 
+section NormalFormsP_σ
+
+-- Impl note.: The definition is a bit awkward with the extra parameter `k`, but this
+-- is necessary in order to avoid some type theory hell when proving that `orderedInsert`
+-- behaves as expected...
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:158]: Actually, I would suggest doing this:
```lean
def standardσ (L : List ℕ) {m₁ m₂ : ℕ} (h : m₂ + L.length = m₁) : mk m₁ ⟶ mk m₂ :=
  match L with
  | .nil => eqToHom (by congr; aesop)
  | .cons a t => standardσ t (by subst h; simp only [List.length_cons]; omega) ≫ σ a

@[simp]
lemma standardσ_nil (m : ℕ) : standardσ (.nil) (by simp) = 𝟙 (mk m) := rfl

@[simp, reassoc]
lemma standardσ_cons (L : List ℕ) (a : ℕ) {m₁ m₂ : ℕ} (h : m₂ + (a :: L).length = m₁) :
    standardσ (L.cons a) h = standardσ L (by dsimp at h; omega) ≫ σ a := rfl

lemma standardσ_comp_standardσ (L₁ L₂ : List ℕ) {m₁ m₂ m₃ : ℕ} (h : m₂ + L₁.length = m₁)
    (h' : m₃ + L₂.length = m₂) :
    standardσ L₁ h ≫ standardσ L₂ h' =
      standardσ (List.append L₂ L₁) (by simp; omega) := by
  induction L₂ generalizing L₁ m₁ m₂ m₃ with
  | nil =>
    obtain rfl : m₃ = m₂ := by simpa using h'
    simp
  | cons a t H =>
    dsimp at h' ⊢
    obtain rfl : m₂ = (m₃ + t.length) + 1 := by omega
    rw [reassoc_of% (H L₁ (m₁ := m₁) (m₂ := m₃ + t.length + 1) (m₃ := m₃ + 1)
      (by omega) (by omega))]
    simp
```
In principle, using this, it should be possible to reduce the number of uses of `eqToHom`, and also of heterogeneous equalities as in `standardσ_heq`.

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:158]: Maybe, `standardσ_comp_standardσ` should be stated in the other way though.

Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:158]: Can you clarify what you mean by "the other way" in this case?

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 3]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+    · exfalso; simp [a₀, Fin.lt_def] at h₁; omega
+    · simp
+
+/-- Performing a simplicial insert in a list is the same as composition on the right by the
+corresponding degeneracy operator. -/
+lemma standardσ_simplicialInsert (hL : IsAdmissible (m + 1) L) (j : ℕ) (hj : j < m + 1) :
+    standardσ (m₂ := m) (simplicialInsert j L) rfl =
+    standardσ (m₂ := m + 1) L (by simp +arith [simplicialInsert_length]) ≫ σ j := by
+  induction L generalizing m j with
+  | nil => simp [standardσ, simplicialInsert]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:281]:
```suggestion
  | nil =>
    obtain rfl : m₁ = m₂ := by dsimp at hk; omega
    simp [simplicialEvalσ]
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 4]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+@[simp]
+private lemma eqToHom_toOrderHom_eq_cast {m n : ℕ}
+    (h : SimplexCategory.mk m = SimplexCategory.mk n) :
+    (eqToHom h).toOrderHom =
+      (Fin.castOrderIso <| congrArg (fun x ↦ x.len + 1) h).toOrderEmbedding.toOrderHom := by
+  ext
+  haveI := congrArg (fun x ↦ x.len + 1) h
+  simp only [SimplexCategory.len_mk, add_left_inj] at this
+  subst this
+  simp
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:214]: This lemma becomes unnecessary after the suggested change in `simplicialEvalσ_of_isAdmissible`:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 5]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+
+lemma standardσ_eval {m₁ m₂ m₁' : ℕ}
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:216]: This lemma does not seem to be necessary (anymore?).

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 6]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+variable {m}
+/- We prove that `simplicialEvalσ` is indeed a lift of
+`toSimplexCategory.map (standardσ m L _ _)).toOrderHom` when the list is admissible. -/
+lemma simplicialEvalσ_of_isAdmissible
+    (m₁ m₂: ℕ) (hL : IsAdmissible m₂ L) (hk : m₂ + L.length = m₁)
+    (j : ℕ) (hj : j < m₁ + 1) :
+    ((toSimplexCategory.map <| standardσ L hk).toOrderHom ⟨j, hj⟩ : ℕ) =
+    simplicialEvalσ L j := by
+  induction L generalizing m₁ m₂ with
+  | nil => simp [simplicialEvalσ, standardσ, eqToHom_map]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:253]:
```suggestion
  | nil =>
    obtain rfl : m₁ = m₂ := by dsimp at hk; omega
    simp [simplicialEvalσ]
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 7]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+/-- Performing a simplicial insert in a list is the same as composition on the right by the
+corresponding degeneracy operator. -/
+lemma standardσ_simplicialInsert (hL : IsAdmissible (m + 1) L) (j : ℕ) (hj : j < m + 1) :
+    standardσ (m₂ := m) (simplicialInsert j L) rfl =
+    standardσ (m₂ := m + 1) L (by simp +arith [simplicialInsert_length]) ≫ σ j := by
+  induction L generalizing m j with
+  | nil => simp [standardσ, simplicialInsert]
+  | cons a L h_rec =>
+    simp only [List.length_cons, eqToHom_refl, simplicialInsert, Category.id_comp]
+    split_ifs <;> rename_i h <;> simp only [standardσ, eqToHom_trans_assoc, Category.assoc]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:284]:
```suggestion
    simp only [List.length_cons, simplicialInsert, Category.id_comp]
    split_ifs <;> simp only [standardσ, Category.assoc]
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 8]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+theorem exists_normal_form_P_σ {x y : SimplexCategoryGenRel} (f : x ⟶ y) (hf : P_σ f) :
+    ∃ L : List ℕ,
+    ∃ m : ℕ, ∃ b : ℕ,
+    ∃ h₁ : mk m = y, ∃ h₂ : x = mk (m + b), ∃ h : L.length = b,
+    IsAdmissible m L ∧ f = standardσ L (by rw [h, h₁.symm, h₂]; rfl) := by
+  induction hf with
+  | id n =>
+    use [], n.len, 0, rfl, rfl, rfl, IsAdmissible.nil _
+    simp only [standardσ, eqToHom_refl]
+    rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:319]:
```suggestion
    simp
    rfl
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 9]
```diff
@@ -155,4 +151,288 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+          simplicialEvalσ_of_lt_mem L (j + 1) <| fun x hx ↦ hL.1.1 x hx]
+        simp
+      · simp only [simplicialEvalσ, Nat.succ_eq_add_one]
+        split_ifs with h₁ h₂ h₂
+        · rw [h_rec hL.tail h |>.2]
+        · rw [h_rec hL.tail h |>.2]
+          rw [not_lt] at h₂
+          haveI : simplicialEvalσ L j ≤ simplicialEvalσ L (j + 1) :=
+            simplicialEvalσ_monotone L (by simp)
+          linarith
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:418]: There are a few other `linarith` which can be replaced by ` omega`. When it works, it is advisable to use `omega` instead:
```suggestion
          omega
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:309]: Won’t the linter complain about the non-terminal simp?

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean (hunk 9 above)
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:408]: Can you expand on why `omega` is preferable over `linarith`? Performances?

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean (hunk 8 above)
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:309]: (actually `rfl` without simp before works, so that’s a non-problem).

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean (hunk 9 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean]: `omega` is usually faster than `linarith`.

**Comment by dagurtomas** [comment]
I'm unassigning myself here, I don't have time right now to look at this in detail. I'll have more time for reviewing after the summer.

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean [hunk 10]
```diff
@@ -155,4 +151,267 @@ theorem simplicialInsert_isAdmissible (L : List ℕ) (hL : IsAdmissible (m + 1)
...
+      equals σ ↑(j + 1) ≫ σ a =>
+        have ha : a < m + 1 := by omega
+        haveI := σ_comp_σ_nat a j ha hj (by omega)
+        generalize_proofs p p' at this
+        -- We have to get rid of the natCasts...
+        have ha₁ : (⟨a, p⟩ : Fin <| m + 1 + 1) = ↑a := by ext; simp [Nat.mod_eq_of_lt p]
+        have ha₂ : (⟨a, ha⟩ : Fin <| m + 1) = ↑a := by ext; simp [Nat.mod_eq_of_lt ha]
+        have hj₁ : (⟨j + 1, p'⟩ : Fin <| m + 1 + 1) = ↑(j + 1) := by ext; simp [Nat.mod_eq_of_lt p']
+        have hj₂ : (⟨j, hj⟩ : Fin <| m + 1) = ↑j := by ext; simp [Nat.mod_eq_of_lt hj]
+        rwa [← ha₁, ← ha₂, ← hj₁, ← hj₂]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean:286]:
```suggestion
lemma standardσ_simplicialInsert (hL : IsAdmissible (m + 1) L) (j : ℕ) (hj : j < m + 1)
    (m₁ : ℕ) (hm₁ : m + L.length + 1 = m₁):
    standardσ (m₂ := m) (simplicialInsert j L) (m₁ := m₁)
      (by simpa only [simplicialInsert_length, add_assoc]) =
    standardσ (m₂ := m + 1) L (by omega) ≫ σ j := by
  induction L generalizing m j with
  | nil => simp [standardσ, simplicialInsert]
  | cons a L h_rec =>
    simp only [List.length_cons, simplicialInsert, Category.id_comp]
    split_ifs
    · simp
    · have : σ (a : Fin (m + 2)) ≫ σ j = σ ((j + 1 : ℕ)) ≫ σ a := by
        convert σ_comp_σ_nat (n := m) a j (by omega) (by omega) ( by omega) <;> simp <;> omega
      simp only [standardσ_cons, Category.assoc, this,
        h_rec hL.tail (j + 1) (by omega) (by simp only [List.length_cons] at hm₁; omega)]
```

Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/NormalForms.lean]: Thanks a lot for this golf! I was also bothered by this proof but couldn't find better.

**Comment by robin-carlier** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25736
